US07659268B2
N-(6-Bromopyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane carboxamide (38 mg, 0.10 mmol) was dissolved in N,N-dimethylformamide (1 mL) in a reaction tube. 2-Methoxypyridin-3-ylboronic acid (18 mg, 0.12 mmol), 0.1 mL of an aqueous 2 M sodium carbonate solution, and Pd(dppf)Cl2 (5 mg, 0.01 mmol) were added and the reaction mixture was heated at 80° C. overnight. The reaction mixture was filtered and evaporated to dryness. The resulting residue was purified by silica gel chromatography eluting with a gradient of 0-100% ethyl acetate in hexane to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(2′-methoxy-2,3′-bipyridin-6-yl)cyclopropane carboxamide (20 mg, 50%). ESI-MS m/z calc. 425.1, found 426.1 (M+1)+. Retention time 1.93 minutes.

reactant | N-(6-Bromopyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane carboxamide | 0.10 mmol, 38 mg | BrC1=CC=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1 | C16H11BrF2N2O3
reactant | 2-Methoxypyridin-3-ylboronic acid | 0.12 mmol, 18 mg | COC1=NC=CC=C1B(O)O | C6H8BNO3
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(2′-methoxy-2,3′-bipyridin-6-yl)cyclopropane carboxamide | 20 mg, 50% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=CC(=N2)C=2C(=NC=CC2)OC)F | C22H17F2N3O4
